* D:\PROJEKTI\Clock Oscillator\Draft1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vout N004 100k
R2 N004 0 100k
C1 N001 0 1µ
R3 Vout N002 15k
R4 N002 N001 200k
V1 N003 0 5
V2 0 N005 5
X§U1 N004 N001 N003 N005 Vout TL072 ;§pnba In+)In-)V+)V-)OUT
.tran 0 10s 0 1ms startup
* Clock Oscillator
.lib "D:\PROJEKTI\Clock Oscillator\TL072.lib"
.options plotwinsize=0
.backanno
.end
